US03968218
Preparation of N-(2-hydroxy-3-phenylthio propyl) dicyclohexylamine hydrochloride.
One mol of thiophenol is dissolved in a solution of 46 g of sodium in ethanol. To the resulting solution there is progressively added 1 mol of an ethanolic solution of (3-chloro-2-hydroxy propyl) dicyclohexylamine hydrochloride. This mixture is then heated for two hours at reflux. After cooling the same, the reaction mixture is filtered and the filtrate evaporated to dryness. The resulting oily residue is taken up in sulfuric ether, through which there is then bubbled gaseous HCl. A white precipitate rapidly forms which is then filtered therefrom and recrystallized in ethanol for a 63 percent yield of white crystals melting at 181°C.

reactant | thiophenol | One mol | C1(=CC=CC=C1)S | C6H6S
reactant | (3-chloro-2-hydroxy propyl) dicyclohexylamine hydrochloride | Cl.ClCC(CN(C1CCCCC1)C1CCCCC1)O
solvent | sodium | 46 g | [Na] | Na
solvent | ethanol | C(C)O | C2H6O
product | N-(2-hydroxy-3-phenylthio propyl) dicyclohexylamine hydrochloride | 63 percent yield | Cl.OC(CN(C1CCCCC1)C1CCCCC1)CSC1=CC=CC=C1 | InChI=1S/C21H33NOS.ClH/c23-20(17-24-21-14-8-3-9-15-21)16-22(18-10-4-1-5-11-18)19-12-6-2-7-13-19;/h3,8-9,14-15,18-20,23H,1-2,4-7,10-13,16-17H2;1H
